US08232272B2
5-[1-isobutyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]-3,6-dihydro-2H-1,3,4-thiadiazin-2-one
To a solution of 24 g (54.8 mM) of 2-bromo-1-[1-isobutyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]ethanone hydrochloride in 500 ml of ethanol are added 6.3 ml (78.4 mM) of pyridine and then 8.2 g (78.4 mM) of O-ethyl hydrazinecarbothioate. The reaction medium is then maintained at 80° C. with stirring for 20 hours. Water is then added and the resulting mixture is extracted with ethyl acetate. The organic phase is washed with water and then dried over anhydrous sodium sulfate and evaporated under vacuum. The residue is purified on a column of silica, using a dichloromethane/methanol mixture (98/2). The residue obtained after evaporation is taken up in diethyl ether to give, after filtration, 10 g of 5-[1-isobutyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]-3,6-dihydro-2H-1,3,4-thiadiazin-2-one in the form of a light-beige solid.

reactant | 2-bromo-1-[1-isobutyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]ethanone hydrochloride | 54.8 mM, 24 g | Cl.BrCC(=O)C1=CC2=C(N(C(=N2)C2=CC(=CC=C2)OC)CC(C)C)C=C1
reactant | pyridine | 78.4 mM, 6.3 ml | N1=CC=CC=C1 | C5H5N
reactant | O-ethyl hydrazinecarbothioate | 78.4 mM, 8.2 g | N(N)C(OCC)=S | C3H8N2OS
reactant | Water | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-[1-isobutyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | C(C(C)C)N1C(=NC2=C1C=CC(=C2)C2=NNC(SC2)=O)C2=CC(=CC=C2)OC | C21H22N4O2S
